US06486142B2
Step 1 4-(bromomethyl)benzaldehyde
To a THF-toluene (2.4 L -0.24 L) solution of α bromo p tolunitrile (266.4 g, 1.36 mol) maintained at an internal temperature below 0° C. was added DIBAL-H in hexane (1.0 M) (1.49 L, 1.49 mol) over a period of 2 h. After a period of 1.5 h, the reaction mixture was transferred via canula to a 3N HCl solution (8 L) at 0° C. To the resulting suspension EtOAc (4 L) and THF (0.8 L) were added. After stirring, the organic phase was separated and evaporated to give a yellow solid. The solid was stirred, in 20% EtOAc in hexane (1.3 L) for 3 hours. After filtration and drying, the title compound was obtained (210 g).

reactant | THF toluene | 2.4 L -0.24 L | C1CCOC1.C1(=CC=CC=C1)C
reactant | bromo p tolunitrile | 1.36 mol, 266.4 g | BrC1=C(C=CC(=C1)C#N)C | C8H6BrN
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | HCl | 3N, 8 L | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | 1.3 L | CCCCCC | C6H14
solvent | EtOAc | 4 L | CCOC(=O)C | C4H8O2
solvent | hexane | 1.49 mol, 1.0 M, 1.49 L | CCCCCC | C6H14
solvent | THF | 0.8 L | C1CCOC1 | C4H8O
product | 4-(bromomethyl)benzaldehyde | BrCC1=CC=C(C=O)C=C1 | C8H7BrO
